US08609653B2
An ice cooled mixture of methyl 4-(chroman-6-yl)-6-methyl-1H-pyrrolo[2,3-b]pyridine-5-carboxylate (519 mg, 90%, 1.449 mmol) in tetrahydrofuran (THF) (10 mL) was treated with LAH (4.35 mL, 4.35 mmol) (2:00 pm) and the mixture was stirred overnight at ambient temperature. The reaction mixture was cooled to 0° C. Added water (160 uL) then stirred several minutes. Then, 15% NaOH (160 uL) was added and stirred several minutes. Finally, added water (480 uL) and stirred 5 minutes. The mixture was diluted with EtOAc, filtered over Celite™ and the filtrate was concentrated to afford the crude (4-(chroman-6-yl)-6-methyl-1 H-pyrrolo[2,3-b]pyridin-5-yl)methanol which was used without further purification: 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 9.51 (br. s., 1 H), 7.26-7.15 (m, 3 H), 6.92 (d, J=8.4 Hz, 1 H), 6.29 (d, J=2.3 Hz, 1 H), 4.75 (s, 2 H), 4.31-4.26 (m, 2 H), 2.91-2.83 (m, 5 H), 2.13-2.07 (m, 2 H); LC/MS (m/z) ES+=295.26 (M+1).

reactant | methyl 4-(chroman-6-yl)-6-methyl-1H-pyrrolo[2,3-b]pyridine-5-carboxylate | 1.449 mmol, 519 mg | O1CCCC2=CC(=CC=C12)C1=C2C(=NC(=C1C(=O)OC)C)NC=C2 | C19H18N2O3
reactant | LAH | 4.35 mmol, 4.35 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | water | 160 uL | O | H2O
reactant | NaOH | 160 uL | [OH-].[Na+]
reactant | water | 480 uL | O | H2O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (4-(chroman-6-yl)-6-methyl-1 H-pyrrolo[2,3-b]pyridin-5-yl)methanol | O1CCCC2=CC(=CC=C12)C1=C2C(=NC(=C1CO)C)NC=C2 | C18H18N2O2
